US06008243
To a solution of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl)ethane-1,2-dione (250 mg, 0.54 mmol) in EtOAc (6 mL) and MeOH (2 mL) at 0° C. was added NaBH4 (20 mg, 0.54 mmol). After 2.75 hours at 0° C., more NaBH4 (20 mg, 0.54 mmol) was added. After 1.25 hours at 0° C., the reaction was quenched with HOAc (few drops) and H2O (2 mL). The pH was adjusted to 5 (by pH paper) with HOAc and partitioned between H2O (25 mL) and EtOAc (25 mL). The organic layers were dried over Na2SO4 and concentrated to provide 0.25 g (99%) of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)1H-pyrrol-3-yl]-2-hydroxy-ethanone as a crisp foam. 1HNMR: δ 7.65 (d, 2H, J=8.5 Hz), 7.59 (d, 2H, J=7.4Hz), 7.48-7.19 (m, 10H), 7.14 (t, 1H, J=2.0 Hz), 7.06 (t, 1H, J=2.6 Hz), 6.31 (t, 1H, J=2.4 Hz), 5.11 (d, 1H, J=7.4 Hz), 4.29 (d, 1H, J=6.6 Hz), 3.99-3.95 (m, 1H), 3.76 (d, 1H, J=9.2 Hz), 3.60 (dd, 1H, J=5.0, 8.6 Hz), 3.08-3.02 (m, 1H), 2.90 (dd, 1H, J=10.5, 13.4 Hz), 1.82 (s, 3H), 1.60 (s, 3H). Anal. Calculated for C30H30N2O3.0.4 H2O: C, 76.05; H, 6.55; N, 5.91. Found: C, 76.17; H, 6.66; N, 5.74.

reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl)ethane-1,2-dione | 0.54 mmol, 250 mg | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(=O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H28N2O3
reactant | NaBH4 | 0.54 mmol, 20 mg | [BH4-].[Na+]
reactant | NaBH4 | 0.54 mmol, 20 mg | [BH4-].[Na+]
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
product | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)1H-pyrrol-3-yl]-2-hydroxy-ethanone | 0.25 g, 99% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H30N2O3
